US07691869B2
1,4-Diaminobutane dihydrochloride (0.97 g; 6 mmol), sodium t-butoxide (1.87 g, 19.5 mmol), rac-BINAP (61.0 mg, 0.09 mmol), and Pd(dba)2 (35.0 mg, 0.06 mmol) are charged to a flame dried screw-cap vial. The vial is vacuumed and back filled with nitrogen. Then anhydrous toluene (15 mL) is added, followed by the addition of 1-bromo-2,4-difluorobenzene (0.34 mL, 3.00 mmol). The mixture is stirred under nitrogen at 110° C. overnight. The reaction mixture is diluted with 80 mL of diethyl ether and filtered through a pad of celite 545. The filtrate is extracted with 6N aqueous HCl (10 mL×3). The combined aqueous layers are washed twice with diethyl ether and adjusted with 1M aqueous NaOH to pH>12. The aqueous layer was extracted with diethyl ether three times. The combined ether phase is dried over anhydrous Na2SO4, filtered, and concentrated to obtain N′-(2,4-difluorophenyl)butane-1,4-diamine as a brown oil: 1H NMR (CDCl3) δ 1.55 (m, 2H), 1.66 (m, 2H), 2.74 (t, 2H), 3.12 (t, 2H), 6.55 (m, 1H), 6.73 (m, 2H).

reactant | 1,4-Diaminobutane dihydrochloride | 6 mmol, 0.97 g | Cl.Cl.NCCCCN
reactant | sodium t-butoxide | 19.5 mmol, 1.87 g | CC(C)([O-])C.[Na+]
reactant | rac-BINAP | 0.09 mmol, 61.0 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 1-bromo-2,4-difluorobenzene | 3.00 mmol, 0.34 mL | BrC1=C(C=C(C=C1)F)F | C6H3BrF2
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
catalyst | Pd(dba)2 | 0.06 mmol, 35.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N′-(2,4-difluorophenyl)butane-1,4-diamine | FC1=C(C=CC(=C1)F)NCCCCN | C10H14F2N2
